US08008298B2
(1-Methyl-cyclohexyl)-{2-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 3-(5-Methyl-1,3,4-oxadiazol-2-yl)phenylboronic acid following general procedures as described in these Examples. MP 234-236° C., M+H=402.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 3-(5-Methyl-1,3,4-oxadiazol-2-yl)phenylboronic acid | CC1=NN=C(O1)C=1C=C(C=CC1)B(O)O | C9H9BN2O3
product | (1-Methyl-cyclohexyl)-{2-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)C=2OC(=NN2)C | C23H23N5O2
